US07544812B2
A solution of 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester (0.456 g, 0.816 mmol) in ethanol (20 mL) is treated with aqueous 5 N NaOH (2 mL) and heated to reflux 1 h. The reaction mixture is cooled, the solvent removed. The resultant residue is acidified and extracted with CH2Cl2. The organic layer is dried and the solvent removed to afford 0.419 g (97%) 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid. 1H NMR. HRMS (ES+) m/z exact mass calc'd for C32H39N2O5 (M+1) 531.2859. Found m/z 531.2866.

reactant | 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid ethyl ester | 0.816 mmol, 0.456 g | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC)(OC1=CC=CC=C1)C)=O | C34H42N2O5
reactant | NaOH | 5 N, 2 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-methyl-3-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-imidazolidin-4-yl]-ethoxy}-phenyl)-2-phenoxy-propionic acid | 0.419 g, 97% | CC(C(=O)O)(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC)OC1=CC=CC=C1 | C32H38N2O5
